US06756378B2
A stirred mixture of methyl 4-hydroxy-3-nitrobenzoate (3.22 g, 0.0163 mol) and 5% Pd-C (12.9 g) in MeOH (30 mL) was hydrogenated under an atmospheric pressure for 70 hr at room temp. Insoluble catalyst was removed, and the filtrate was evaporated in vacuo. The residue was chromatographed on silica-gel with EtOH—CHCl3 (1:20, v/v) as eluent to afford 1.89 g (69%) methyl 3-amino-4-hydroxybenzoate as a pale brown syrup.

reactant | methyl 4-hydroxy-3-nitrobenzoate | 0.0163 mol, 3.22 g | OC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H7NO5
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd-C | 12.9 g | [Pd] | Pd
product | methyl 3-amino-4-hydroxybenzoate | 1.89 g, 69% | NC=1C=C(C(=O)OC)C=CC1O | C8H9NO3
